US07271153B2
To a solution of 4-(2-benzoyloxyethyl)benzyl alcohol (1.2 g) in dichloromethane (50 mL) was added manganese dioxide (12 g), and the mixture was stirred for 23 hours at room temperature. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-(2-benzoyloxyethyl)benzaldehyde (0.87 g). To a solution of 3-(methoxymethyloxy)pyridine (0.20 g) in diethyl ether (20 mL) was added tert-butyllithium (1.51 mol/L solution in pentane, 1.2 mL) at −78° C., and the mixture was stirred for 30 minutes. To the reaction mixture was added a solution of 4-(2-benzoyloxy-ethyl)benzaldehyde (0.44 g) in diethyl ether (4 mL). The temperature was raised to room temperature, and the mixture was stirred for 1 hour. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. To the residue were added hexane and ethyl acetate, and the resulting crystals were collected by filtration and dried under reduced pressure to give 4-(2-benzoyloxyethyl)phenyl-3-(methoxymethyloxy)pyridin-4-yl-methanol (0.30 g). To a solution of the obtained 4-(2-benzoyloxyethyl)phenyl-3-(methoxymethyloxy)pyridin-4-yl-methanol (0.28 g) in ethanol (4.8 mL) was added concentrated hydrochloric acid (0.6 mL), and the mixture was heated under reflux for 10 minutes. The solvent of the reaction mixture was removed under reduced pressure, and ethyl acetate was added to the residue. The resulting precipitated crystals were collected by filtration and dried to give4-(2-benzoyloxyethyl)-phenyl-3-hydroxypyridin-4-ylmethanol hydrochloride (0.28 g). To a solution of the obtained 4-(2-benzoyloxyethyl)phenyl-3-hydroxypyridin-4-ylmethanol hydrochloride (0.27 g) in ethanol (6.9 mL) was added 10% palladium carbon powder (0.27 g), and the mixture was stirred for 3.5 hours at room temperature under a hydrogen atmosphere. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. To the residue were added ethyl acetate and diethyl ether, and the resulting crystals were collected by filtration. To the obtained crystals was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. To the residue was added diethyl ether, and the resulting precipitated crystals were collected by filtration and dried under reduced pressure to give 4-[4-(2-benzoyloxyethyl)benzyl]-3-hydroxypyridine (0.12. g).

reactant | 4-(2-benzoyloxyethyl)benzyl alcohol | 1.2 g | C(C1=CC=CC=C1)(=O)OCCC1=CC=C(CO)C=C1 | C16H16O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 12 g | [O-2].[O-2].[Mn+4]
product | 4-(2-benzoyloxyethyl)benzaldehyde | 0.87 g | C(C1=CC=CC=C1)(=O)OCCC1=CC=C(C=O)C=C1 | C16H14O3
